US04826869
1,5-Dipropyl-2-(3'-ureidobenzyl)pyrrole
2.5 g (100 mmol) of 50% sodium hydride were suspended, under nitrogen atmosphere, in 150 ml of anhydrous dimethylformamide. A solution of 11.5 g (44 mmol) of 2-(3'-nitrobenzoyl)-5-propylpyrrole in 50 ml of anhydrous dimethylformamide was added thereto, in a dropwise fashion and under stirring. The resulting mixture was stirred at room temperature for an additional hour and then 10 ml (110 mmol) of 1-bromopropane was added. The reaction mixture was stirred at room temperature for 48 hours, and thereafter poured into 500 ml of ice-ethyl acetate. The organic phase was separated. The aqueous phase was extracted with more ethyl acetate (2×500 ml), and the combined orgainc extracts were washed with water (5×300 ml), dried and evaporated in vacuo. Purification of the residue by column chromatography on 500 g of silica gel, using hexane-acetone (90:10) as eluant provided 13.9 g (98%) of the title compound, 1,5-dipropyl-2-(3'-nitrobenzoyl)pyrrole, as an oil.

reactant | sodium hydride | 100 mmol, 2.5 g | [H-].[Na+]
reactant | 2-(3'-nitrobenzoyl)-5-propylpyrrole | 44 mmol, 11.5 g | [N+](=O)([O-])C=1C=C(C(=O)C=2NC(=CC2)CCC)C=CC1 | C14H14N2O3
reactant | 1-bromopropane | 110 mmol, 10 ml | BrCCC | C3H7Br
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1,5-Dipropyl-2-(3'-ureidobenzyl)pyrrole | 13.9 g, 98% | C(CC)N1C(=CC=C1CCC)CC1=CC(=CC=C1)NC(=O)N | C18H25N3O
